US03984573
A solution of 2-mercaptobenzoic acid (15.4 g, 0.1 mole) in 50 ml of 1,2-dimethoxyethane (DME) was slowly added, with cooling, to a stirred suspension of 0.1 mole of sodium hydride in DME, the suspension having been prepared by washing 4.2 grams of a 57% oil dispersion with dry n-hexane (3 times) and replacing the last wash with dry 1,2-dimethoxyethane (50 ml). Cooling was necessary to maintain the temperature below 25°C. The resultant suspension was heated at 50°C for 2 hours, cooled to 0°C and filtered. The solid was washed well with cold DME (ca. 50 ml) and dried under vacuum overnight to yield sodium 2-mercaptobenzoate: 17.6 g (100% yield);

reactant | 2-mercaptobenzoic acid | 0.1 mole, 15.4 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | sodium hydride | 0.1 mole | [H-].[Na+]
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | sodium 2-mercaptobenzoate | 100% yield | SC1=C(C(=O)[O-])C=CC=C1.[Na+] | InChI=1S/C7H6O2S.Na/c8-7(9)5-3-1-2-4-6(5)10;/h1-4,10H,(H,8,9);/q;+1/p-1
